US07713994B2
6-Aminomethyl-3-propoxy-pyridin-2-ol
To a mixture of 6-azidomethyl-2-benzyloxy-3-propoxy-pyridine (544 mg, 2.00 mmole), 12 mL of tetrahydrofuran, and triphenylphosphine (524 mg, 2.00 mmole) then water (540 □L, 30.0 mmole) is added and this is stirred at ambient temperature overnight. The reaction mixture is evaporated to dryness in vacuo and then washed with 2:1 hexanes/ethyl acetate and filtered. This resulting solid is taken up in ethanol and hydrogenated over 10% palladium on carbon at 1 atmosphere. The reaction mixture is filtered washed with ethanol, evaporated to give a brownish green solid, 93 mg, (25%), MS (ES+): m/z 183.3 (M+H). This is used as is for the next step.

reactant | 6-azidomethyl-2-benzyloxy-3-propoxy-pyridine | 2.00 mmole, 544 mg | N(=[N+]=[N-])CC1=CC=C(C(=N1)OCC1=CC=CC=C1)OCCC | C16H18N4O2
reactant | triphenylphosphine | 2.00 mmole, 524 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 30.0 mmole | O | H2O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 6-Aminomethyl-3-propoxy-pyridin-2-ol | NCC1=CC=C(C(=N1)O)OCCC | C9H14N2O2
